US07262212B2
2-Chloro-4-nitro-1H-imidazole (6.78 g, 46 mmol) and 2-methyloxiran-2-ylmethyl 4-nitrobenzoate (12 g, 51 mmol) were dissolved in ethyl acetate (24 ml), and triethylamine (1.3 ml, 9.2 mmol) was added to the solution. The resulting mixture was stirred under reflux for 14 hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride (40 ml) was added to the residue. The resulting precipitates were filtered off, and dissolved in methanol (120 ml). To the solution, potassium carbonate (318 mg, 2.3 mmol) was added, and the resulting mixture was stirred at room temperature for 1 hour. To the resulting mixture, 6 N hydrochloric acid (0.8 ml) and magnesium sulfate (8 g) were added in this order with cooling on ice-bath, and the resulting mixture was stirred for 30 minutes. Insoluble matters were removed by filtration through Celite, and the filtrate was concentrated under reduced pressure. To the residue, ethyl acetate (6 ml) and toluene (60 ml) were added. The resulting precipitates were filtered off and dried at 50° C. to afford 2-chloro-1-(2,3-dihydroxy-2-methylpropyl)-4-nitroimidazole (7.88 g, yield 72%) as a white powder.

reactant | 2-Chloro-4-nitro-1H-imidazole | 46 mmol, 6.78 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 2-methyloxiran-2-ylmethyl 4-nitrobenzoate | 51 mmol, 12 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC2(OC2)C)C=C1 | C11H11NO5
reactant | triethylamine | 9.2 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6 N, 0.8 ml | Cl | ClH
reactant | magnesium sulfate | 8 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethyl acetate | 24 ml | C(C)(=O)OCC | C4H8O2
catalyst | potassium carbonate | 2.3 mmol, 318 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-chloro-1-(2,3-dihydroxy-2-methylpropyl)-4-nitroimidazole | 7.88 g, yield 72% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(CO)(C)O | C7H10ClN3O4
